US04870219
A solution of 1 g of 5-(p-hydroxy-α-methylstyryl)-1,1,3,3-tetramethyl-2-indanone in 10 ml of tetrahydrofuran is added dropwise while cooling with ice to a suspension of 100 mg of lithium aluminium hydride in 5 ml of tetrahydrofuran and the mixture is subsequently left to stir at room temperature for 2 hours. After the dropwise addition of 50 ml of 2N hydrochloric acid at 0° the mixture is extracted with ethyl acetate and the organic phase is washed with water, dried and evaporated. After filtration of the crude product over silica gel (elution agent hexane/ethyl acetate=1:1) it is recrystallized from ethyl acetate/hexane and there are obtained 500 mg of 5-(p-hydroxy-α-methylstyryl)-1,1,3,3-tetramethyl-2-indanol in colourless crystals, m.p. 148°-149°.

reactant | 5-(p-hydroxy-α-methylstyryl)-1,1,3,3-tetramethyl-2-indanone | 1 g | OC1=CC=C(C=C(C)C=2C=C3C(C(C(C3=CC2)(C)C)=O)(C)C)C=C1 | C22H24O2
reactant | lithium aluminium hydride | 100 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 2N, 50 ml | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 5-(p-hydroxy-α-methylstyryl)-1,1,3,3-tetramethyl-2-indanol | 500 mg | OC1=CC=C(C=C(C)C=2C=C3C(C(C(C3=CC2)(C)C)O)(C)C)C=C1 | C22H26O2
